US04695569
A mixture of 2 parts of 6-chloro-9H-purine-9-ethanol, 3.7 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine, 1.06 parts of sodium carbonate and 45 parts of N;N-dimethylacetamide was stirred and heated for 3 hours at 130° C. The reaction mixture was poured into water and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 2.8 parts (53%) of 6-[[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]amino]-9H-purine-9-ethanol; mp. 168.7° C. (compound 93).

reactant | 6-chloro-9H-purine-9-ethanol | ClC1=C2N=CN(C2=NC=N1)CCO | C7H7ClN4O
reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine | NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C21H26FN5
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 6-[[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]amino]-9H-purine-9-ethanol | 53% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC2=C1N=CN(C1=NC=N2)CCO | C28H32FN9O
